US07273877B2
Step A: Preparation of 4-(3,4-Dichloro-phenylamino)-1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid
A suspension of 4-chloro-1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid (161 mg, 0.86 mmol) was treated with lithium diisopropylamide (2.0 M solution in tetrahydrofuran-ethylbenzene-heptane, 0.45 mL, 0.9 mmol). The resultant solution was stirred for 30 min at ambient temperature under nitrogen and was then cooled to −78° C. This is solution A. In a separate flask, a solution of 3,4-dichloroaniline (147 mg, 1.21 mmol) in tetrahydrofuran (3.0 mL) was cooled to −78° C. and treated with lithium diisopropylamide (2.0 M solution in tetrahydrofuran-ethylbenzene-heptane, 1.2 mL, 2.4 mmol). The resultant solution was stirred for 30 min at −78° C. and was transferred to solution A (also at −78° C.) via cannula. The resultant reaction mixture was stirred for 30 min at −78° C. and was then warmed to ambient temperature for 2.5 h. The reaction was diluted with ethyl ether (10 mL) and filtered. The solid was washed with ether (10 mL). The filtrate and washings were discarded. The solid was partitioned between ethyl acetate (60 mL) and 1 N hydrochloric acid (20 mL). The organics were washed with water (2×20 mL) and brine (20 mL). The combined aqueous portion was further extracted with ethyl acetate (20 mL). All organics were combined and dried over magnesium sulfate and concentrated in vacuo to afford a brown-colored solid (234 mg), used in step B without further purification.

reactant | 4-chloro-1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid | 0.86 mmol, 161 mg | ClC=1C(=CN(C(C1)=O)C)C(=O)O | C7H6ClNO3
reactant | lithium diisopropylamide | 0.9 mmol, 2.0 M, 0.45 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3,4-dichloroaniline | 1.21 mmol, 147 mg | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | lithium diisopropylamide | 2.4 mmol, 2.0 M, 1.2 mL | C(C)(C)[N-]C(C)C.[Li+]
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
solvent | ethyl ether | 10 mL | C(C)OCC | C4H10O
product | 4-(3,4-Dichloro-phenylamino)-1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid | 234 mg | ClC=1C=C(C=CC1Cl)NC=1C(=CN(C(C1)=O)C)C(=O)O | C13H10Cl2N2O3
